US06699904B2
To a solution of 2-ethoxy-3-[4-(1-heptylaminomethyl-cyclopropyl)-phenyl]-propionic acid methyl ester (54 mg, 0.13 mmol), and 2,4-difluorophenylisocyanate (0.156 mmol, 0.0185 mL) in toluene (2.5 mL) was added N,N-diisopropylethylamine (0.29 mmol, 0.050 mL). The mixture was allowed to stir at room temperature for 18 hours, then was poured over 1 M HCl (5 mL). The aqueous layer was isolated and extracted with diethyl ether (2×). The organic layers were combined, washed with 2 M HCl (1×), brine (1×), dried over anhydrous sodium sulfate, and concentrated to give a clear film. The crude product was chromatographed on silica (Merck silica gel 60, art#9385-3) eluting with 20% ethyl acetate/hexanes to give 3-(4-{1-[3-(2,4-difluoro-phenyl)-1-heptyl-ureidomethyl]-cyclopropyl}-phenyl)-2-ethoxy-propionic acid methyl ester as a clear film (50 mg, 73%).

reactant | 2-ethoxy-3-[4-(1-heptylaminomethyl-cyclopropyl)-phenyl]-propionic acid methyl ester | 0.13 mmol, 54 mg | COC(C(CC1=CC=C(C=C1)C1(CC1)CNCCCCCCC)OCC)=O | C23H37NO3
reactant | 2,4-difluorophenylisocyanate | 0.156 mmol, 0.0185 mL | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | N,N-diisopropylethylamine | 0.29 mmol, 0.050 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HCl | 1 M, 5 mL | Cl | ClH
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-{1-[3-(2,4-difluoro-phenyl)-1-heptyl-ureidomethyl]-cyclopropyl}-phenyl)-2-ethoxy-propionic acid methyl ester | COC(C(CC1=CC=C(C=C1)C1(CC1)CN(C(=O)NC1=C(C=C(C=C1)F)F)CCCCCCC)OCC)=O | C30H40F2N2O4
